US09062028B2
Step C. (3-((4-Bromo-1H-pyrazol-1-yl)methyl)phenyl)methanamine
The title compound was prepared using a procedure analogous to bromo-1a,2,3,7b-tetrahydro-1H-cyclopropa[c]quinoline except that 7-bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one was replaced with 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzamide. LCMS, [M+H]+=266.1. 1H NMR (500 MHz, CDCl3) δ 7.47 (s, 1H), 7.36 (s, 1H), 7.33-7.25 (m, 2H), 7.18 (s, 1H), 7.09 (d, J=7.4 Hz, 1H), 5.24 (s, 2H), 3.85 (s, 2H), 1.78 (s, 2H).

reactant | bromo-1a,2,3,7b-tetrahydro-1H-cyclopropa[c]quinoline | BrC1C2CNC=3C=CC=CC3C21 | C10H10BrN
reactant | 7-bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one | BrC=1C=2C3C(C(NC2C=CC1)=O)C3 | C10H8BrNO
reactant | 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzamide | BrC=1C=NN(C1)CC=1C=C(C(=O)N)C=CC1 | C11H10BrN3O
product | (3-((4-Bromo-1H-pyrazol-1-yl)methyl)phenyl)methanamine | BrC=1C=NN(C1)CC=1C=C(C=CC1)CN | C11H12BrN3
